US04822780
A suspension of 1.07 g of 4-bromoethyl-N-(2-methoxycarbonylphenyl)benzamide in 5 ml of triethyl phosphite was stirred under heating at 140° to 150° C. for 30 minutes. After excess triethyl phosphite had been distilled off in vacuo, the residue was subjected to silica gel column chromatography (eluent; chloroform:methanol=1:1) to give 4-diethoxyphosphinylmethyl-N-(2-methoxycarbonylphenyl)benzamide. It was recrystallized from a benzene-n-hexane mixture to give 1.20 g of colorless needles.

reactant | 4-bromoethyl-N-(2-methoxycarbonylphenyl)benzamide | 1.07 g | BrCCC1=CC=C(C(=O)NC2=C(C=CC=C2)C(=O)OC)C=C1 | C17H16BrNO3
reactant | triethyl phosphite | 5 ml | P(OCC)(OCC)OCC | C6H15O3P
product | 4-diethoxyphosphinylmethyl-N-(2-methoxycarbonylphenyl)benzamide | C(C)OP(=O)(OCC)CC1=CC=C(C(=O)NC2=C(C=CC=C2)C(=O)OC)C=C1 | C20H24NO6P
